US08563575B2
122a) 3-[4-(benzyloxy)phenyl]-6-methyl-1-(1-methylethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
NaH (84 mg) was added to a solution of 3-[4-(benzyloxy)phenyl]-6-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (346 mg) and 2-iodopropane (0.208 mL) in DMF (dry) (4 mL) at room temperature. The mixture was stirred at room temperature under a dry atmosphere (CaCl2 tube) for 1 h. The mixture was poured into water, and the mixture was extracted with EtOAc. The organic layer was separated, washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by column chromatography (NH silica gel, EtOAc/hexane) to give the title compound (283 mg) as a yellow oil.

reactant | NaH | 84 mg | [H-].[Na+]
reactant | 3-[4-(benzyloxy)phenyl]-6-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 346 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(NC=2C1=NC=C(C2)C)=O | C20H17N3O2
reactant | 2-iodopropane | 0.208 mL | IC(C)C | C3H7I
reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-[4-(benzyloxy)phenyl]-6-methyl-1-(1-methylethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 283 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(N(C=2C1=NC=C(C2)C)C(C)C)=O | C23H23N3O2
